US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(3-cyanophenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 30.8 mg (0.21 mmol) of 3-cyanophenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 32 mg (62.1% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 3-cyanophenyl isocyanate | 0.21 mmol, 30.8 mg | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(3-cyanophenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC(=CC=C1)C#N | InChI=1S/C24H23N5O2S.ClH/c25-13-15-2-1-3-18(10-15)26-24(31)27-19-5-4-17-11-22(32-21(17)12-19)23(30)28-20-14-29-8-6-16(20)7-9-29;/h1-5,10-12,16,20H,6-9,14H2,(H,28,30)(H2,26,27,31);1H/t20-;/m0./s1
